US08710236B2
A solution of 4-[5-(4-Bromobenzyl)-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl]-benzoic acid methyl ester (1.35 g, 2.93 mmol) and 4-benzofuran-2-ylphenylamine (736 mg, 3.52 mmol) in dry NMP (10 mL) was heated at 220° C. for 5 min in the microwave. The reaction mixture was diluted with water then extracted with EtOAc. After concentrating, the crude material was purified by flash chromatography on silica gel (ISCO cartridge, 40 g), eluting with a gradient of zero to 35% ethyl acetate in hexane over 30 minutes to afford 4-[2-(4-Benzofuran-2-ylphenylcarbamoyl)-3-(4-bromophenyl)-propyl]-benzoic acid methyl ester (935 mg, 56%). 1H NMR (300 MHz, DMSO-d6): δ 9.92 (s, 1H), 7.86 (d, J=8.4 Hz, 2H), 7.80 (d, J=8.7 Hz, 2H), 7.64-7.17 (m, 13H), 3.81 (s, 3H), 3.10-2.93 (m, 3H), 2.85-2.71 (m, 2H).

reactant | 4-[5-(4-Bromobenzyl)-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl]-benzoic acid methyl ester | 2.93 mmol, 1.35 g | COC(C1=CC=C(C=C1)CC1(C(OC(OC1=O)(C)C)=O)CC1=CC=C(C=C1)Br)=O | C22H21BrO6
reactant | 4-benzofuran-2-ylphenylamine | 3.52 mmol, 736 mg | O1C(=CC=C2C1=CC=C2)NC2=CC=CC=C2 | C14H11NO
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-[2-(4-Benzofuran-2-ylphenylcarbamoyl)-3-(4-bromophenyl)-propyl]-benzoic acid methyl ester | 935 mg, 56% | COC(C1=CC=C(C=C1)CC(CC1=CC=C(C=C1)Br)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C32H26BrNO4
